US06232290B1
To a suspension of a mixture of methyl 4-[5-(4-hydroxyphenyl)-1,3,4-thiadiazol-2-yl]benzoate and 4-[5-(4-hydroxyphenyl)-1,3,4-thiadiazol-2-yl]benzoic acid (600 mg), potassium carbonate (531 mg) and N,N-dimethylformamide (3 ml) was added 4-phenoxybutylbromide (880 mg) and the mixture was stirred at 100° C. (bath temperature) for 2 hours. After cooling, the mixture was added to 0.1N hydrochloric acid (100 ml). The resulting precipitate was collected by filtration and washed with water. To this material was added tetrahydrofuran (20 ml), ethanol (20 ml) and 10% sodium hydroxide aqueous solution (1.39 ml). The mixture was refluxed for 2 hours. After cooling, the reaction mixture was diluted with water (100 ml), adjusted to pH 1.8 with 1N hydrochloric acid, then extracted with a mixture of dichloromethane (1000 ml), tetrahydrofuran (200 ml) and methanol (200 ml). The organic layer was washed with brine and dried over magnesium sulfate. The solvents were removed under reduced pressure and the residue was triturated with acetonitrile. The solid was collected by filtration and dried to give 4-[5-[4-(4-phenoxybutyloxy)phenyl]-1,3,4-thiadiazol-2-yl]benzoic acid (685 mg).

reactant | methyl 4-[5-(4-hydroxyphenyl)-1,3,4-thiadiazol-2-yl]benzoate | OC1=CC=C(C=C1)C1=NN=C(S1)C1=CC=C(C(=O)OC)C=C1 | C16H12N2O3S
reactant | 4-[5-(4-hydroxyphenyl)-1,3,4-thiadiazol-2-yl]benzoic acid | 600 mg | OC1=CC=C(C=C1)C1=NN=C(S1)C1=CC=C(C(=O)O)C=C1 | C15H10N2O3S
reactant | potassium carbonate | 531 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-phenoxybutylbromide | 880 mg | O(C1=CC=CC=C1)CCCCBr | C10H13BrO
reactant | hydrochloric acid | 0.1N, 100 ml | Cl | ClH
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 4-[5-[4-(4-phenoxybutyloxy)phenyl]-1,3,4-thiadiazol-2-yl]benzoic acid | 685 mg | O(C1=CC=CC=C1)CCCCOC1=CC=C(C=C1)C1=NN=C(S1)C1=CC=C(C(=O)O)C=C1 | C25H22N2O4S
